US07230023B2
(5) Methyl 2,5-bis(acetoxymethyl)benzoate
Sodium acetate (10.4 g, 126.8 mmol) was added to a solution of methyl 2,5-bis(bromomethyl)benzoate (described in J. Am. Chem. Soc., 121, 1192 (1999); 12.65 g, 39.3 mmol) in dimethyl sulfoxide (80 ml), and the mixture was stirred at room temperature for 1 hour. After a saturated aqueous solution of ammonium chloride (150 ml) was added thereto, the product was extracted with ethyl acetate. The organic layer was washed with water and then with a saturated aqueous solution of sodium chloride, and the solvent was distilled off under reduced pressure. The obtained oily residue was subjected to chromatography on a silica gel (200 g) column (eluent; ethyl acetate:hexane=1:5˜1:2) to afford the title compound (7.72 g, 70% yield) as an oil.

reactant | Sodium acetate | 126.8 mmol, 10.4 g | C(C)(=O)[O-].[Na+]
reactant | methyl 2,5-bis(bromomethyl)benzoate | 39.3 mmol, 12.65 g | BrCC1=C(C(=O)OC)C=C(C=C1)CBr | C10H10Br2O2
reactant | ammonium chloride | 150 ml | [Cl-].[NH4+]
solvent | dimethyl sulfoxide | 80 ml | CS(=O)C | C2H6OS
product | Methyl 2,5-bis(acetoxymethyl)benzoate | 7.72 g, 70% yield | C(C)(=O)OCC1=C(C(=O)OC)C=C(C=C1)COC(C)=O | C14H16O6
